US07598257B2
Step 2. 5-(Methylthio)-3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]pentanenitrile
A mixture of 4-(1H-pyrazol-4-yl)-7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]-pyrimidine (0.30 g, 0.00095 mol), (2E)-5-(methylthio)pent-2-enenitrile (0.28 g, 0.0016 mol) and DBU (45 μL, 0.00030 mol) in ACN (3 mL, 0.06 mol) was stirred at rt for 5 days. The solvent was removed by rotary evaporation to give an orange oil. The crude oil was chromatographed with 30-70 ethyl acetate/hex, to give 0.35 g of a colorless oil (83% yield).

reactant | 4-(1H-pyrazol-4-yl)-7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]-pyrimidine | 0.00095 mol, 0.30 g | N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C15H21N5OSi
reactant | (2E)-5-(methylthio)pent-2-enenitrile | 0.0016 mol, 0.28 g | CSCC/C=C/C#N | C6H9NS
reactant | DBU | 0.00030 mol, 45 μL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | ACN | 0.06 mol, 3 mL | C(C)#N | C2H3N
product | 5-(Methylthio)-3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]pentanenitrile | 0.35 g, 83% yield | CSCCC(CC#N)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C21H30N6OSSi
